US05189211
To a mixture of 4-hydroxybenzaldehyde (6.1 g), potassium carbonate (13.8 g), sodium iodide (0.75 g) and dimethylformamide (110 ml) was added N-(ethoxycarbonylmethyl)-2-chloroacetamide (8.9 g), and the mixture was stirred at 80° C. for 30 minutes. The reaction mixture was poured into 3% hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed successively with water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. After evaporation of the solvent under reduced pressure, the residue was chromatographed on silica gel column (eluent; ethyl acetate), the desired fractions were collected and recrystallized from ethyl acetate/hexane to give N-(ethoxycarbonylmethyl)-2-(4-formylphenoxy)acetamide (4.09 g).

reactant | 4-hydroxybenzaldehyde | 6.1 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.75 g | [I-].[Na+]
reactant | N-(ethoxycarbonylmethyl)-2-chloroacetamide | 8.9 g | C(C)OC(=O)CNC(CCl)=O | C6H10ClNO3
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
product | N-(ethoxycarbonylmethyl)-2-(4-formylphenoxy)acetamide | 4.09 g | C(C)OC(=O)CNC(COC1=CC=C(C=C1)C=O)=O | C13H15NO5
